US06774082B2
Preparation of 9,12,15-triaza-3,6-dioxa-pentadecanol
A mixture of diethylene triamine (460 ml, 4.3 mole) and (2-iodoethoxy) ethoxyethanol (7.30 g, 28 mmole) was stirred-at room temperature for 1 hour. The excess of diethylenetriamine was removed by distillation under vacuum. The residue was then treated with aqueous Satd NaOH, extracted with CH2Cl2, dried over MgSO4/Na2CO3, filtered, and concentrated to give a yellow oil. This was purificated by column chromatography on silica with CH3OH/NH40H (10:1), then (5:1) to give 1.43 g (33%) of the title compound as a pale yellow oil. The reaction is shown schematically as follows:

reactant | diethylene triamine | 4.3 mole, 460 ml | NCCNCCN | C4H13N3
reactant | (2-iodoethoxy) ethoxyethanol | 28 mmole, 7.30 g | ICCOCCOC(C)O | C6H13IO3
reactant | CH3OH | CO | CH4O
product | 9,12,15-triaza-3,6-dioxa-pentadecanol | 1.43 g, 33% | C(COCCOCCNCCNCCN)O | C10H25N3O3
